US05093353
undeca-1,10-dien-6-one
To a solution of 10.7 g of diispropylamine in 100 ml of tetrahydrofuran at 0° C. was added 74.1 ml of a 1.43M solution of n-butyllithium in hexane. After 15 minutes the solution was cooled to -30° C. To the mixture was then added a solution of 13.5 g of the title product of Example 62 in 50 ml of tetrahydrofuran, and the resulting mixture was kept for 1 hour at -30° C. The mixture was then cooled to -65° C. and to it was added a solution of 19.6 g of 4-bromo-1-butene in 25 ml of tetrahydrofuran. The mixture was then permitted to warm to room temperature overnight. The mixture was poured into brine, and the aqueous layer was extracted with two portions of diethyl ether. The combined organic extracts were dried over sodium sulfate, filtered, and the solvent removed under reduced pressure. Distillation of the residue gave 10.68 g of material which was dissolved in 30 ml of tetrahydrofuran, then added to a cooled mixture (-30° C.) of 8.5 ml of diisopropylamine 42.7 ml of a 1.43M solution of n-butyllithium in hexane, and 50 ml of tetrahydrofuran. After 1 hour, the mixture was cooled to -65° C., and a solution of 11.2 g of 4-bromo-1-butene in 15 ml of tetrahydrofuran. After permitting the mixture to warm to room temperature overnight, the mixture was poured into brine, and the aqueous layer extracted with two portions of diethyl ether. The combined organic extracts were dried over magnesium sulfate, filtered, and the solvent removed in vacuo. The residue (13.8 g) was then stirred overnight in a mixture of 100 ml of diethyl ether and 100 ml of dilute hydrochloric acid. The layers were separated, and the aqueous layer was extracted with two portions of diethyl ether. The combined organic extracts were washed with brine, dried over magnesium sulfate, and filtered. The solvent was removed by distillation through a Vigreaux column at atmospheric pressure. Continued distillation gave the title compound (4.39 g), b.p. 85°-87° C. at 2.0 mm.

reactant | diisopropylamine | 8.5 ml | C(C)(C)NC(C)C | C6H15N
reactant | n-butyllithium | C(CCC)[Li]
reactant | 4-bromo-1-butene | 11.2 g | BrCCC=C | C4H7Br
reactant | tetrahydrofuran | 30 ml | O1CCCC1 | C4H8O
reactant | tetrahydrofuran | 15 ml | O1CCCC1 | C4H8O
reactant | tetrahydrofuran | 50 ml | O1CCCC1 | C4H8O
solvent | hexane | CCCCCC | C6H14
solvent | brine | [Cl-].[Na+].O
product | undeca-1,10-dien-6-one | 4.39 g | C=CCCCC(CCCC=C)=O | C11H18O
